US06107329
(R)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one hydrochloride
(R)-2-(N-t-butoxycarbonylamino)-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one (12.5 mmol) was dissolved in 4M HCl-dioxane at 0° C. and the resulting suspension stirred at 25° C. for 1 hour. The mixture was concentrated and the residue triturated with ether. Yield, 3.44 g, 97%.

reactant | (R)-2-(N-t-butoxycarbonylamino)-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one | 12.5 mmol | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1CCC(CC1)O)CC1=CC=CC=C1 | C19H28N2O4
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
product | (R)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one hydrochloride | Cl.N[C@@H](C(=O)N1CCC(CC1)O)CC1=CC=CC=C1 | InChI=1S/C14H20N2O2.ClH/c15-13(10-11-4-2-1-3-5-11)14(18)16-8-6-12(17)7-9-16;/h1-5,12-13,17H,6-10,15H2;1H/t13-;/m1./s1
